US05095014
3-(2,4-Dichlorophenoxy)-N-methyl-1-azetidinecarboxamide
A stirred solution of 4.8 g (0.017 mole) of 3-(2,4-dichlorophenoxy)-1-azetidinecarbonyl chloride in 20 mL of tetrahydrofuran was treated with 4 mL (0.05 mole) of 40% aqueous monomethylamine. After stirring for 5 h, the reaction mixture was diluted with 200 mL of water and the precipitated solid collected by filtration (4.6 g). The crude product was recrystallized from acetonitrile yielding 3.4 g (72.7%) of coarse white powder, mp 140°-141° C.

reactant | 3-(2,4-dichlorophenoxy)-1-azetidinecarbonyl chloride | 0.017 mole, 4.8 g | ClC1=C(OC2CN(C2)C(=O)Cl)C=CC(=C1)Cl | C10H8Cl3NO2
reactant | monomethylamine | 0.05 mole, 4 mL | CN | CH5N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 3-(2,4-Dichlorophenoxy)-N-methyl-1-azetidinecarboxamide | ClC1=C(OC2CN(C2)C(=O)NC)C=CC(=C1)Cl | C11H12Cl2N2O2
